US08022062B2
Use a method similar to the General Procedure 5-3 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.47 mmol) with (±)-1-thiophen-2-yl-ethylamine (prepared as described in J. Amer. Chem. Soc. 1942, 64, 477-479) (200 mg, 1.57 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1 and 4:1) to give (±)-7-chloro-6-[(1-thiophen-2-yl-ethyl)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (126 mg, 67%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.47 mmol, 200 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (±)-1-thiophen-2-yl-ethylamine | 1.57 mmol, 200 mg | S1C(=CC=C1)C(C)N | C6H9NS
product | (±)-7-chloro-6-[(1-thiophen-2-yl-ethyl)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 126 mg, 67% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC(C)C=1SC=CC1 | C18H18ClF3N2OS
